US06518253B1
1-β-Ribofuranosyl-1,2,4-triazole-3-carboamide (5):
Methyl-1-(2,3,5-tri-O-acetyl-β-L-ribofuranosyl)-1,2,4-triazole-3-carboxylate (62 g, 161 mmol) was placed in a steel bomb and treated with freshly prepared methanolic ammonia (350 ml, prepared by passing dry HCL gas into dry methanol at 0° C. until saturation) at 0° C. The steel bomb was closed and stirred at room temperature for 18 h. The steel bomb was then cooled to 0° C., opened and the content evaporated to dryness. The residue was treated with dry ethanol (100 ml) and evaporated to dryness. The residue obtained was triturated with acetone to give a solid, which was filtered and washed with acetone. The solid was dried overnight at room temperature and dissolved in a hot EtOH (600 ml) and water (10 ml) mixture. The volume of the EtOH solution was reduced to 150 ml by heating and stirring on a hot plate. The hot EtOH solution on cooling provided colorless crystals, which were filtered, washed with acetone and dried under vacuum. Further concentration of the filtrate gave additional material. The total yield was 35 g (89%).

reactant | Methyl-1-(2,3,5-tri-O-acetyl-β-L-ribofuranosyl)-1,2,4-triazole-3-carboxylate | 161 mmol, 62 g | COC(=O)C1=NN(C=N1)[C@@H]1[C@@H](OC(C)=O)[C@@H](OC(C)=O)[C@@H](O1)COC(C)=O | C15H19N3O9
reactant | ammonia | 350 ml | N | H3N
product | 1-β-Ribofuranosyl-1,2,4-triazole-3-carboamide | [C@@H]1([C@H](O)[C@H](O)[C@H](O1)CO)N1N=C(N=C1)C(=O)N | C8H12N4O5
